US07674789B2
4a) N-(Cyclopropylmethyl)-3-[8-(2,6-difluorophenyl)-2-(methylthio)-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl]-4-methylbenzamide
To a solution of 3-[8-(2,6-Difluorophenyl)-2-(methylthio)-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl]-4-methylbenzoic acid (500 mg) in methylenechloride (100 mL) were added EDC (260 mg), HOBt (160 mg) and cyclopropylmethylamine (260 uL). The reaction mixture was stirred at room temperature overnight and concentrated in vacuo. The residue was purified via column chromatography to provide the title compound as a white solid. LC-MS m/z 496 (M+H)+, 2.62 min (ret. time).

reactant | 3-[8-(2,6-Difluorophenyl)-2-(methylthio)-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl]-4-methylbenzoic acid | 500 mg | FC1=C(C(=CC=C1)F)N1C(NCC2=C1N=C(N=C2C=2C=C(C(=O)O)C=CC2C)SC)=O | C21H16F2N4O3S
reactant | EDC | 260 mg
reactant | HOBt | 160 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | cyclopropylmethylamine | 260 uL | C1(CC1)CN | C4H9N
solvent | methylenechloride | 100 mL | C(Cl)Cl | CH2Cl2
product | N-(Cyclopropylmethyl)-3-[8-(2,6-difluorophenyl)-2-(methylthio)-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl]-4-methylbenzamide | C1(CC1)CNC(C1=CC(=C(C=C1)C)C1=NC(=NC=2N(C(NCC21)=O)C2=C(C=CC=C2F)F)SC)=O | C25H23F2N5O2S
